US07074817B2
{1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methanol
Lithium aluminum hydride (0.244 g, 6.1 mmol) was added portionwise to a stirring solution of ethyl 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole-2-carboxylate (2.0 g, 4.4 mmol) in ethyl ether (17 mL) at 0° C. under a nitrogen atmosphere over a period of 5 minutes. The mixture was then warmed up to room temperature. After the reaction mixture was stirred at room temperature for 5 hour, the reaction was carefully quenched with water then filtered. The filtrate was extracted with ethyl acetate. The organic extract was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to afford the title compound as a white solid (1.56 g, 86%). Mass spectrum (ESI, [M+H]+) m/z 412. 1HNMR (400 MHz, DMSO-d6): δ 7.81 (s, 1H), 7.76 (d, 2H, J=6.71 Hz), 7.45-7.35 (m, 4H), 7.08 (d, 2H, J=7.74 Hz), 6.96 (d, 2H, J=8.09 Hz), 6.50 (s, 1H), 5.44 (s, 2H), 5.35 (t, 1H), 4.60 (d, 2H), and 2.23 ppm (t, 3H).

reactant | Lithium aluminum hydride | 6.1 mmol, 0.244 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-(4-methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole-2-carboxylate | 4.4 mmol, 2.0 g | CC1=CC=C(CN2C(=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC)C=C1 | C26H22F3NO3
solvent | ethyl ether | 17 mL | C(C)OCC | C4H10O
product | {1-(4-Methylbenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-2-yl}methanol | 1.56 g, 86% | CC1=CC=C(CN2C(=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)CO)C=C1 | C24H20F3NO2
